US06720338B2
4-bromo-N-butyl-2-nitroaniline
A solution of butylamine (1.25 g, 17.1 mmol) in DMSO (14 mL) was treated with 4-bromo-1-fluoro-2-nitrobenzene (1.50 g, 6.82 mmol), heated to 70° C. for 1 hour, added to 1M HCl (60 mL), and extracted with diethyl ether (3×75 mL). The combined extracts were washed with brine (20 mL), dried (Na2SO4), filtered, and concentrated to provide the desired product.

reactant | butylamine | 17.1 mmol, 1.25 g | C(CCC)N | C4H11N
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 6.82 mmol, 1.50 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | HCl | 1M, 60 mL | Cl | ClH
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
product | 4-bromo-N-butyl-2-nitroaniline | BrC1=CC(=C(NCCCC)C=C1)[N+](=O)[O-] | C10H13BrN2O2
